US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (i-propylidene) hydrazide (compound No. I-16)
Acetone (10 ml, 0.0015×91 mol) was added to 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.5 g, 0.0015 mol). The resultant mixture was stirred at room temperature for about one hours. The obtained reaction solution was concentrated, thereby obtaining an aimed product.

reactant | Acetone | 91 mol, 10 ml | CC(=O)C | C3H6O
reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.0015 mol, 0.5 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (i-propylidene) hydrazide | C(C)(C)=NNC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O | C17H16F3N3O3
